US07601714B2
To a solution of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (300 mg, 0.69 mmol) in DMF (3 mL) were added t-butyl 2,4-dibromobutyrate (322 μL, 1.5 mmol) and DIPEA (297 μL), 1.7 mmol). The reaction mixture was stirred at 60° C. for 9 h. The reaction mixture was then diluted with EtOAc and washed with 1M Na2CO3, water (×4) and brine. The organic phase was then dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 116 mg of 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxylic acid tert-butyl ester.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.69 mmol, 300 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | t-butyl 2,4-dibromobutyrate | 1.5 mmol, 322 μL | BrC(C(=O)OC(C)(C)C)CCBr | C8H14Br2O2
reactant | DIPEA | 297 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidine-2-carboxylic acid tert-butyl ester | 116 mg | C(C)(C)(C)OC(=O)C1N(CC1)[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C27H35F3N6O5
